### ISSUE TITLE
refactor: dedupe linearPow_zero_of_pos between HexPolyFp.Compose and HexBerlekamp.Basic

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#4330]
## Current state

`HexPolyFp/Compose.lean` line 895 has:

```lean
private theorem linearPow_zero_of_pos (n : Nat) (hn : 0 < n) :
    FpPoly.linearPow (0 : FpPoly p) n = 0 := by
  cases n with
  | zero => omega
  | succ k =>
      rw [FpPoly.linearPow_succ]
      exact FpPoly.mul_zero (FpPoly.linearPow (0 : FpPoly p) k)
```

`HexBerlekamp/Basic.lean` line 856 has a textually different but
semantically identical:

```lean
private theorem linearPow_zero_of_pos_aux (n : Nat) (hn : 0 < n) :
    FpPoly.linearPow (0 : FpPoly p) n = 0 := by
  have hsucc : ∀ m : Nat, FpPoly.linearPow (0 : FpPoly p) (m + 1) = 0 := by
    intro m
    induction m with
    | zero =>
        rw [FpPoly.linearPow_succ]
        exact FpPoly.one_mul 0
    | succ m ih =>
        rw [FpPoly.linearPow_succ, ih, FpPoly.zero_mul]
  cases n with
  | zero => omega
  | succ n => exact hsucc n
```

The `_aux` suffix on the second copy suggests the author noticed the name
clash. Both lemmas exist because the `Compose.lean` version is `private`
and unreachable from `Basic.lean`.

Audit found this while reviewing the matrix-kernel-iff stack (#4328).

## Deliverables

1. Promote the `HexPolyFp/Compose.lean` `linearPow_zero_of_pos` lemma to
   public visibility (drop `private`), or move it to a more accessible
   location in `HexPolyFp/Basic.lean` if `Compose.lean` is too deep in the
   import DAG.
2. Delete `linearPow_zero_of_pos_aux` from `HexBerlekamp/Basic.lean` and
   replace its single call site (in
   `isFixedSpaceKernelPolynomial_iff_dvd_linearPow_sub_self`) with the
   shared public lemma.
3. No new `axiom`, `native_decide`, `TODO`, `FIXME`, or theorem-level
   `sorry`.

## Library placement

Path: `HexPolyFp/Compose.lean` (or `HexPolyFp/Basic.lean` if relocated)
and `HexBerlekamp/Basic.lean`. Do not touch `SPEC/`, `PLAN.md`, or
`AGENTS.md`.

## Context

Read:

- `HexPolyFp/Compose.lean` line 895 — the original (the `cases n / succ k`
  variant is the cleaner of the two).
- `HexBerlekamp/Basic.lean` lines 856-868 — the duplicate.
- `HexBerlekamp/Basic.lean` line 953 — the single call site that consumes
  the duplicate.

## Verification

- `lake build HexPolyFp HexBerlekamp.Basic HexBerlekamp`
- `python3 scripts/check_dag.py`
- `git diff --check`
- No new `axiom`, `native_decide`, `TODO`, `FIXME`, or theorem-level
  `sorry`.

## Out of scope

- Other potentially-duplicated lemmas between `HexBerlekamp.*` and
  `HexPolyFp.*` (covered separately if discovered).
- Editing `SPEC/`, `PLAN.md`, or `AGENTS.md`.

**Comment by kim-em** [comment]
Session: `59c83453-f8a6-4e08-bc23-6138a568ed54` Branch: `agent/59c83453`

**Comment by kim-em** [comment]
Claimed by session `f9ca3f50-6270-4978-84ca-b5686657f58d` on branch `agent/f9ca3f50`
